US06175013B1
Preparation of 1-(2-methoxybenzyl)-2-methyl-4-phenyl-2-imidazoline
The 1-phenyl-1-(tritylamino)-2-[N-(2-methoxybenzyl)acetylamino]ethane, prepared as described in Preparation 1, supra, was detritylated and cyclized by dissolving the intermediate (8.0 g, 14.8 mmol) in 250 ml of methylene chloride and cooling this solution to 0° C. under a nitrogen atmosphere. Formic acid (5.7 ml, 148 mmol) was then added and the reaction mixture was warmed to room temperature and then stirred for 2.5 hours. The progress of the reaction was monitored by thin layer chromatography.

reactant | 1-phenyl-1-(tritylamino)-2-[N-(2-methoxybenzyl)acetylamino]ethane | C1(=CC=CC=C1)C(CNC(CCC1=C(C=CC=C1)OC)=O)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C37H36N2O2
reactant | Formic acid | 148 mmol, 5.7 ml | C(=O)O | CH2O2
solvent | methylene chloride | 250 ml | C(Cl)Cl | CH2Cl2
product | 1-(2-methoxybenzyl)-2-methyl-4-phenyl-2-imidazoline | COC1=C(CN2C(=NC(C2)C2=CC=CC=C2)C)C=CC=C1 | C18H20N2O
